US09108969B2
Step C: Preparation of Ethyl 2-(1-(2-Amino-4-hydroxyphenyl)-2-oxopyrrolidin-3-yl)acetate
Ethyl 2-(1-(4-(benzyloxy)-2-nitrophenyl)-2-oxopyrrolidin-3-yl)acetate (1.09 g, 2.73 mmol) was taken up in EtOH and THF (1:1 mixture, 40 mL) and Pd/C (500 mg) was added. The reaction was pressurized with hydrogen (500 psi) in a bomb reactor and stirred at room temperature for 1 h. The reaction mixture was filtered through a pad of Celite® and the filtrate was concentrated under reduced pressure to provide the title compound (752 mg). LCMS m/z=279.3 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.27 (t, J=7.1 Hz, 3H), 1.96-2.08 (m, 1H), 2.38-2.48 (m, 1H), 2.70 (dd, J=16.9, 7.7 Hz, 1H), 2.86 (dd, J=17.0, 4.0 Hz, 1H), 2.95-3.05 (m, 1H), 3.63-3.79 (m, 2H), 4.18 (q, J=7.2 Hz, 2H), 6.53 (d, J=2.7 Hz, 1H), 6.59 (dd, J=8.6, 2.6 Hz, 1H), 6.66 (d, J=8.6 Hz, 1H).

reactant | Ethyl 2-(1-(4-(benzyloxy)-2-nitrophenyl)-2-oxopyrrolidin-3-yl)acetate | 2.73 mmol, 1.09 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)N1C(C(CC1)CC(=O)OCC)=O)[N+](=O)[O-] | C21H22N2O6
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | hydrogen | [H][H] | H2
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | Ethyl 2-(1-(2-Amino-4-hydroxyphenyl)-2-oxopyrrolidin-3-yl)acetate | 752 mg | NC1=C(C=CC(=C1)O)N1C(C(CC1)CC(=O)OCC)=O | C14H18N2O4
